US04153794
(2) Production of N1 -methyl-N4 -(2-aminobenzyl)piperazine
In 30 volume parts of ethanol is dissolved 1.87 parts of N1 -methyl-N4 -(2-nitrobenzyl)piperazine, followed by the addition of 3.0 parts of Raney nickel. Then, 3.0 parts of hydrazine hydrate is further added to the mixture and the entire mixture is kept at room temperature for 2 hours. Following this reaction, the Raney nickel is filtered off and the solvent is distilled off under reduced pressure. The residual oily substance is recrystallized from aqueous methanol. The procedure gives pale yellow crystals melting at 78° to 79° C.

reactant | hydrazine hydrate | O.NN
reactant | N1 -methyl-N4 -(2-nitrobenzyl)piperazine | CN1CCN(CC1)CC1=C(C=CC=C1)[N+](=O)[O-] | C12H17N3O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | N1 -methyl-N4 -(2-aminobenzyl)piperazine | CN1CCN(CC1)CC1=C(C=CC=C1)N | C12H19N3
